US09447106B2
To a solution of benzyl 2-(3-carbamoyl-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenylcarbamate (100 mg, 0.17 mmol) in 5 mL of DCM and 5 mL of CH3OH was added 10% w/w Pd/C (50 mg). After stirring at RT under H2 for 16 hr, the mixture was filtered and the cake was washed with DCM/CH3OH (1/1, 50 mL). The filtrate was concentrated and purified by chromatography column on silica gel eluting with DCM/CH3OH to afford 10 mg (13%) of 7-(2-aminophenyl)-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide as a white solid. 1H NMR (400 MHz, CD3OD-d4) δ 7.39 (d, J=8.8 Hz, 2H), 7.02-6.91 (m, 7H), 6.66 (d, J=7.6 Hz, 1H), 6.53 (t, J=7.6 Hz, 1H), 6.33 (d, J=7.6 Hz, 1H), 5.54-5.50 (m, 1H), 3.30-3.24 (m, 1H), 3.12-3.06 (m, 1H) and 2.31-2.20 (m, 2H). MS (ESI) m/e [M+1]+ 443.9.

reactant | benzyl 2-(3-carbamoyl-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenylcarbamate | 0.17 mmol, 100 mg | C(N)(=O)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)NC(OCC2=CC=CC=C2)=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)F | C33H28FN5O4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 5 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 7-(2-aminophenyl)-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide | 10 mg, 13% | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=C(C=C2)F | C25H22FN5O2
